US07872009B2
Step 6: 4-(2-(4-propyl-1H-1,2,3-triazol-1-yl)acetyl)morpholine-2-carboxylic acid
In a 25-mL RBF, benzyl 4-(2-(4-propyl-1H-1,2,3-triazol-1-yl)acetyl)morpholine-2-carboxylate (0.105 g, 0.282 mmol) was taken up in MeOH (1.0 mL). Lithium hydroxide hydrate (0.0130 g, 0.310 mmol) was added as a solution in water (1.0 mL). The mixture was stirred at ambient temperature for 14 h, then concentrated, and used crude in the subsequent step. MS m/z 283 (M+1).

reactant | benzyl 4-(2-(4-propyl-1H-1,2,3-triazol-1-yl)acetyl)morpholine-2-carboxylate | 0.282 mmol, 0.105 g | C(CC)C=1N=NN(C1)CC(=O)N1CC(OCC1)C(=O)OCC1=CC=CC=C1 | C19H24N4O4
reactant | Lithium hydroxide hydrate | 0.310 mmol, 0.0130 g | O.[OH-].[Li+]
solvent | MeOH | 1.0 mL | CO | CH4O
solvent | water | 1.0 mL | O | H2O
product | 4-(2-(4-propyl-1H-1,2,3-triazol-1-yl)acetyl)morpholine-2-carboxylic acid | C(CC)C=1N=NN(C1)CC(=O)N1CC(OCC1)C(=O)O | C12H18N4O4
